US05962458
1H NMR Spectrum: (DMSOd6) 4.65(s, 2H); 5.70(t, 1H); 7.70(d, 1H); 7.95(s, 1H); 8.75(d, 1H) A mixture of 2-cyano-4-hydroxymethylpyridine (0.51 g, 3.8mmol) and thionyl chloride (0.6 ml) in toluene (20 ml) was stirred at room temperature for 1 hour. The volatiles were removed by evaporation and the residue azeotroped with toluene to give 4-chloromethyl-2-cyanopyridine hydrochloride (620 mg, 86%).

reactant | 2-cyano-4-hydroxymethylpyridine | 3.8mmol, 0.51 g | C(#N)C1=NC=CC(=C1)CO | C7H6N2O
reactant | thionyl chloride | 0.6 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloromethyl-2-cyanopyridine hydrochloride | 620 mg, 86% | Cl.ClCC1=CC(=NC=C1)C#N | InChI=1S/C7H5ClN2.ClH/c8-4-6-1-2-10-7(3-6)5-9;/h1-3H,4H2;1H
